US08975398B2
tert-butyl 4-(4-(1-(6-chloropyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate
In a 50 mL round-bottomed flask was added tert-butyl 4-(4-(azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate (918 mg, 2.55 mmol) and diisopropylethylamine (0.558 ml, 3.19 mmol) in ethanol (10.6 ml). 3,6-dichloropyridazine (317 mg, 2.128 mmol) was added as a solid in a single portion. The reaction was stirred overnight at 45° C.; and the reaction was cooled and concentrated. Dichloromethane and water were added and the layers were separated. The aqueous layer was extracted three times with dichloromethane and the combined organics were dried with magnesium sulfate, filtered and concentrated by rotary evaporation. The residue was purified by regular phase flash column chromatography to give the title compound.

reactant | tert-butyl 4-(4-(azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate | 2.55 mmol, 918 mg | N1CC(C1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H29N3O3
reactant | diisopropylethylamine | 3.19 mmol, 0.558 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3,6-dichloropyridazine | 2.128 mmol, 317 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | ethanol | 10.6 ml | C(C)O | C2H6O
product | tert-butyl 4-(4-(1-(6-chloropyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate | ClC1=CC=C(N=N1)N1CC(C1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C24H30ClN5O3
